US05350748
Alkylation of methyl 3-amino-4-methoxybenzo[b]thiophene-2-carboxylate (1.4 g, 5.9 mmol) [Beck J. R., supra] with paraformaldehyde as described for the preparation of methyl 4-chloro-3-(dimethylamino)benzo[b]thiophene-2-carboxylate provides methyl 3-(dimethylamino)-4-methoxybenzo[b]thiophene-2-carboxylate as a crude solid suitable for further synthesis; mp=69°-73° C.

reactant | methyl 3-amino-4-methoxybenzo[b]thiophene-2-carboxylate | 5.9 mmol, 1.4 g | NC=1C2=C(SC1C(=O)OC)C=CC=C2OC | C11H11NO3S
reactant | paraformaldehyde | C=O | CH2O
reactant | methyl 4-chloro-3-(dimethylamino)benzo[b]thiophene-2-carboxylate | ClC1=CC=CC=2SC(=C(C21)N(C)C)C(=O)OC | C12H12ClNO2S
product | methyl 3-(dimethylamino)-4-methoxybenzo[b]thiophene-2-carboxylate | CN(C=1C2=C(SC1C(=O)OC)C=CC=C2OC)C | C13H15NO3S
